US07189741B2
C. Preparation of 2-{2-[4-(5-methoxy-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 2.4 g (7.4 mmol) of 5-methoxy-3-piperidin-4-yl-1-thiophen-2-ylmethyl-1H-indole and 1.8 g (8 mmol) of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After standard work-up, 1.3 g (36% of yield) of the expected acid were obtained.

reactant | 5-methoxy-3-piperidin-4-yl-1-thiophen-2-ylmethyl-1H-indole | 7.4 mmol, 2.4 g | COC=1C=C2C(=CN(C2=CC1)CC=1SC=CC1)C1CCNCC1 | C19H22N2OS
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | 8 mmol, 1.8 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-{2-[4-(5-methoxy-1-thiophen-2-ylmethyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | COC=1C=C2C(=CN(C2=CC1)CC=1SC=CC1)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C28H30N2O4S
